data/mechanism_extracts/AccChemRes/10.1021_ar200318q.json
{"doi": "10.1021_ar200318q", "journal": "AccChemRes", "is_review": true, "rxn_class_summary": "Metal-catalyzed (Rh2 and Ru2 paddlewheel) intramolecular and intermolecular nitrogen-atom transfer / C–H amination of sulfamate, carbamate, sulfamide, and related N–H substrates using hypervalent iodine oxidants to give heterocycles or amines via metal nitrenoid intermediates.", "mechanism_family": ["nitrene", "concerted", "biradical", "electrocatalysis_inner_sphere", "other"], "electrochemical_role": null, "key_intermediates": [], "electron_flow": "PhI(OAc)2 condenses with sulfamate/carbamate N–H substrate to form an iminoiodinane (ROSO2N=IPh); coordination to the dirhodium (or diruthenium) paddlewheel extrudes PhI to give a metal nitrenoid, which transfers nitrogen to a C–H bond either by concerted asynchronous insertion (Rh2) or stepwise H-atom abstraction / radical rebound (Ru2(hp)4Cl).", "rate_determining_step": "For Rh2-catalyzed amination, formation of the iminoiodinane ROSO2N=IPh appears rate-limiting (no variance in rate across 0.5–5 mol% catalyst within first 100 s); the product-determining C–H insertion step itself is fast.", "probe_reagents": [], "evidence_types_used": ["KIE", "radical_clock", "intermediate_trap_other", "stoichiometric_intermediate", "UV_vis", "DFT", "kinetic_order", "isolation_of_intermediate", "H/D_labeling", "crossover"], "evidence_strength": "review", "notes": "Two competing mechanisms are discussed: (favored for Rh2) concerted asynchronous singlet nitrene C–H insertion supported by KIE ~2.6, Hammett ρ = -0.55, stereochemical retention at tertiary C–H, and failure of a 10^11 s^-1 cyclopropane radical clock to ring-open; (favored for [Ru2(hp)4Cl]) stepwise H-atom abstraction/radical rebound supported by larger KIE 4.9, Hammett ρ = -0.90, partial cis-trans alkene isomerization, cyclopropane clock ring-opening, and DFT. A one-electron / proton-coupled pathway via mixed-valent [Rh2(esp)2]+ (characterized by UV-vis, λ ~750 nm) is also proposed for intermolecular amination and can be driven by Ce(SO4)2 as a single-electron oxidant. Sulfilimine trapping with PhSMe provides indirect evidence for the transient iminoiodinane. Catalyst decomposition via ligand exchange between PhI(OAc)2 and Rh2(O2 13CMe)4 (release of 13C-labeled AcOH) is documented; chelating esp ligand suppresses this and stabilizes the mixed-valent state."}
